US05902818
Preparation of 4-(3',3'-dimethylacryloxymethyl)-4-ethyl-2-oxazolidinone (1d)
3.1 grains (0.021 mole) 4-ethyl-4-hydroxymethyl-2-oxazolidinone, prepared identically to that discussed in example 1, 2.6 grams (0.022 mole) 3,3-dimethylacryloyl chloride, and 25 milliliters chloroform were mixed in a one-necked round-bottom flask. The procedure employed was identical to that discussed in example 4. 410 grams (90% of the yield theoretically expected) of pure product was obtained as a yellow oil. The product exhibited the following spectral data: 1H NMR (CDCl3) δ0.98(t, 3H J=1.2 Hz), 1.65-1.71(m, 2H), 1.92(s, 3H), 2.17(s, 3H), 4.04-4.23(m, 4H), 5.71(s, 1H), 6.43(s, 1H); 13C NMR (CDCl3) δ7.6, 20.6, 27.7, 28.7, 60.3, 66.1, 71.3, 115.2, 159.0, 159.5, 166.2; IR (NaCl) 3215, 3020, 2970, 1785 cm-1 ; MS m/z 227. This monomer can be chlorinated or brominated by the same procedure as in example 1.

reactant | 4-ethyl-4-hydroxymethyl-2-oxazolidinone | 0.021 mole | C(C)C1(NC(OC1)=O)CO | C6H11NO3
reactant | 3,3-dimethylacryloyl chloride | 0.022 mole, 2.6 grams | CC(=CC(=O)Cl)C | C5H7ClO
reactant | NaCl | [Na+].[Cl-]
solvent | chloroform | 25 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 4-(3',3'-dimethylacryloxymethyl)-4-ethyl-2-oxazolidinone | CC(=CC(=O)OCC1(NC(OC1)=O)CC)C | C11H17NO4
